US06828332B1
Preparation of N-Benzyl-3,3-dimethyl-4-piperidone.
In a 1 liter 3-necked flask equipped with mechanical stirring, addition funnel and a calcium chloride drying tube is added a 37% weight solution of formaldehyde (168.5 mL, 2.25 mole) dissolved in 500 mL of absolute ethanol. The resulting solution was cooled in an ice-water bath to 10° C., and benzylamine (109 mL, 1 mole) was added dropwise over a one hour period. In a separate 3 liter 3-necked flask equipped with mechanical stirring, addition funnel and two condensers is added 3-methyl-2-butanone (113 mL, 1.06 mole) dissolved in 500 mL of absolute ethanol and concentrated hydrogen chloride (92 mL, 1.11 mole). The resulting solution is brought to reflux and the formaldehyde/benzylamine solution is added dropwise over a 2 hour period. This solution is refluxed overnight, and then cooled to ambient temperature. Diisbpropylethylamine (142.2 g, 1.1 mole) and formaldehyde (22.46 mL, 0.3 mole) are added and the resulting solution is heated to reflux for six hours, and then cooled to ambient temperature. The solution was quenched with potassium hydroxide (61.6 g, 1.1 mole) in 200 mL of water, and then extracted with 500 mL ethyl acetate three times. The organics were concentrated under vacuum to give 225 g of red oil. The crude oil was dissolved in 1 liter of methylene chloride. This solution was carefully poured over 1 kg of silica gel on a sintered glass filter. The silica gel was washed with 4 L of methylene chloride. The methylene chloride was concentrated under vacuum to provide 142 g of a yellow oil which crystallizes in the freezer overnight. Yield=65.4%.

reactant | formaldehyde | 2.25 mole, 168.5 mL | C=O | CH2O
reactant | benzylamine | 1 mole, 109 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-methyl-2-butanone | 1.06 mole, 113 mL | CC(C(C)=O)C | C5H10O
reactant | hydrogen chloride | 1.11 mole, 92 mL | Cl | ClH
reactant | formaldehyde benzylamine | C=O.C(C1=CC=CC=C1)N
reactant | formaldehyde | 0.3 mole, 22.46 mL | C=O | CH2O
reactant | potassium hydroxide | 1.1 mole, 61.6 g | [OH-].[K+]
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | ethanol | 500 mL | C(C)O | C2H6O
solvent | water | 200 mL | O | H2O
product | N-Benzyl-3,3-dimethyl-4-piperidone | 225 g | C(C1=CC=CC=C1)N1CC(C(CC1)=O)(C)C | C14H19NO
